US08314109B2
A mixture of 80 mg of 6-(1-ethoxyvinyl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide, 2.5 mL of toluene, 280 μL of ethylene glycol and 170 mg of para-toluenesulfonic acid is placed over molecular sieves. The mixture is refluxed for 2 hours and then cooled, filtered and diluted with 20 mL of dichloromethane and 20 mL of water, and neutralized with 2N sodium hydroxide solution. The aqueous phase is washed with dichloromethane and the combined organic phases are dried and concentrated to dryness. The residue is chromatographed on a silica cartridge, eluting with a gradient of dichloromethane and ethyl acetate of from 0/30 to 70/30 to give 17 mg of 6-(2-methyl-1,3-dioxolan-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a white solid.

reactant | 6-(1-ethoxyvinyl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 80 mg | C(C)OC(=C)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C18H17N3O2
reactant | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | para-toluenesulfonic acid | 170 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethylene glycol | 280 μL | C(CO)O | C2H6O2
product | 6-(2-methyl-1,3-dioxolan-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 17 mg | CC1(OCCO1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C18H17N3O3
